US07968573B2
To a mixture of 0.78 g of 2-amino-5-fluorobenzoic acid and 100 ml of N,N-dimethylformamide was added 1.1 g of N-bromosuccinimide at room temperature, and the mixture was stirred at room temperature for 5 hours. After water was added to the reaction mixture, a deposited precipitate was collected by filtration, and then washed with acetone to obtain 0.43 g of 2-amino-3-bromo-5-fluorobenzoic acid of the formula:

reactant | 2-amino-5-fluorobenzoic acid | 0.78 g | NC1=C(C(=O)O)C=C(C=C1)F | C7H6FNO2
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N-bromosuccinimide | 1.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | O | H2O
product | 2-amino-3-bromo-5-fluorobenzoic acid | 0.43 g | NC1=C(C(=O)O)C=C(C=C1Br)F | C7H5BrFNO2
